US08133909B2
Quinolin-3-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine
A solution of 10.4 mmol 4-(trifluoromethyl)phenylacetonitrile (commercially available) and 3.5 eq. aminoquinoline in MeOH (10 mL) was treated with ammonium formate (5 eq.) and 10% Pd/C (100 mg) and stirred at 80° C. for 2 h. Filtration, concentration and purification by chromatography (SiO2, CH2Cl2/MeOH) afforded the title compound (73%) as a yellow oil. MS m/e: 317.1 [M+H]+.

reactant | 4-(trifluoromethyl)phenylacetonitrile | 10.4 mmol | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | aminoquinoline | 3.5 eq. | CCN(CC)CCCC(C)NC=1C=C(N=C2C1C=CC(=C2)Cl)/C=C/C=3C=CC=CC3Cl | C26H31Cl2N3
reactant | ammonium formate | 5 eq. | C(=O)[O-].[NH4+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | Quinolin-3-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine | 73% | N1=CC(=CC2=CC=CC=C12)NCCC1=CC=C(C=C1)C(F)(F)F | C18H15F3N2
